US07563910B2
1-(rac)-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-5-(2-fluoro-5-trifluoromethyl-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone as compound of formula S, 2,2-dimethyl-1,3-dioxolan-4-methylamine as R3—(CH2)m—NH2 and (1R,2R)-2-aminocyclohexanol as R1R2NH, MS (ISP) 499.5 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)F | C9H5BrF4O
reactant | 2,2-dimethyl-1,3-dioxolan-4-methylamine | CC1(OCC(O1)CN)C | C6H13NO2
reactant | (1R,2R)-2-aminocyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 1-(rac)-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-5-(2-fluoro-5-trifluoromethyl-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)F)CC1OC(OC1)(C)C)C | C25H30F4N2O4
